* Corner Analysis - VibroSense OTA
* Run AC analysis at TT corner (others need separate lib calls)
* This file measures at TT. Corner script sweeps all 5.

.lib "sky130_minimal.lib.spice" tt
.include "ota_foldcasc.spice"

Vdd vdd 0 dc 1.8
Vss vss 0 dc 0
Mbn vbn vbn 0 0 sky130_fd_pr__nfet_01v8__model W=4u L=4u nf=1
Ibias vdd vbn dc 500n
Vbcn vbcn 0 dc 0.80
Mbp vbp vbp vdd vdd sky130_fd_pr__pfet_01v8__model W=8u L=1u nf=2
Ibp vbp 0 dc 500n
Vbcp vbcp 0 dc 0.70

Vcm cm 0 dc 0.9
Vac vinp cm dc 0 ac 1
Lfb vout vinn 1T

Xota vinp vinn vout vdd vss vbn vbcn vbp vbcp ota_foldcasc
CL vout 0 10p

.ac dec 100 0.001 100Meg

.control
  run
  meas ac gain_peak MAX vdb(vout)
  meas ac ugb WHEN vdb(vout)=0 FALL=1
  meas ac phase_ugb FIND vp(vout) AT=ugb
  let pm = phase_ugb + 180
  echo "CORNER=TT: Gain=$&gain_peak dB UGB=$&ugb Hz PM=$&pm deg"
  quit
.endc
.end
